* D:\Disco D\universita\magistrale\progettazione-low-power\progetti\progetto-2\ltspice\models\gaussian-vth\hold\gaussian_vth_hold.asc
Vsweep u NC_01 {vsweep}
E1 N001 N003 V1 0 {e1}
E2 N003 NC_02 u 0 {e2}
M1 VDD N001 Vout1 VDD EECMOSP1 l={l_pmos_q} w={w_pmos_q}
M2 Vout1 N001 0 0 EECMOSN1 l={l_nmos_q} w={w_nmos_q}
E3 V1 N002 u 0 {e3}
E4 N002 0 Vout1 0 {e4}
E5 V2 N005 u 0 {e5}
E6 N005 0 Vout2 0 {e6}
E7 N004 N006 V2 0 {e7}
E8 N006 NC_03 u 0 {e8}
M3 VDD N004 Vout2 VDD EECMOSP1 l={l_pmos_q_neg} w={w_pmos_q_neg}
M4 Vout2 N004 0 0 EECMOSN1 l={l_nmos_q_neg} w={w_nmos_q_neg}
Vdd VDD 0 {vdd}
M5 BL WL Vout1 NC_04 EECMOSN1 l={l_ax} w={w_ax}
Vwl WL 0 {vwl}
Vbl BL 0 {vbl}
M6 BLneg WL Vout2 NC_05 EECMOSN1 l={l_ax} w={w_ax}
Vblneg BLneg 0 {vblneg}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\giorg\AppData\Local\LTspice\lib\cmp\standard.mos
.PARAM l_ax=0.12u  ; Batch instruction
.PARAM w_ax=0.24u  ; Batch instruction
.PARAM l_pmos_q=0.12u  ; Batch instruction
.PARAM w_pmos_q=0.12u  ; Batch instruction
.PARAM l_nmos_q=0.12u  ; Batch instruction
.PARAM w_nmos_q=0.48u  ; Batch instruction
.PARAM l_pmos_q_neg=0.12u  ; Batch instruction
.PARAM w_pmos_q_neg=0.12u  ; Batch instruction
.PARAM l_nmos_q_neg=0.12u  ; Batch instruction
.PARAM w_nmos_q_neg=0.48u  ; Batch instruction
.PARAM vdd=1  ; Batch instruction
.PARAM vwl=0  ; Batch instruction
.PARAM vbl=1  ; Batch instruction
.PARAM vblneg=1  ; Batch instruction
.PARAM vsweep=1  ; Batch instruction
.PARAM e1=0.707  ; Batch instruction
.PARAM e2=0.707  ; Batch instruction
.PARAM e3=1  ; Batch instruction
.PARAM e4=1.41  ; Batch instruction
.PARAM e5=-1  ; Batch instruction
.PARAM e6=1.41  ; Batch instruction
.PARAM e7=0.707  ; Batch instruction
.PARAM e8=-0.707  ; Batch instruction
.inc ../../../../../ltspice/utils/utils-montecarlo-experiments/RIT_Models_For_LTSPICE_MonteCarlo.txt
.dc Vsweep -0.65 0.65 0.01
.step param run 1 400 1
.backanno
.end
